US03976777
3-tert. Butyl-6-methyl salicylic acid (62.4 g 0.3M) was suspended in glacial acetic acid (300 ml) and cooled to 15°C. Concentrated nitric acid (22.5 ml) was added dropwise with stirring at such a rate that the temperature was maintained at approx. 10°-15°C. The mixture was stirred for 1 hour at this temp. and then poured onto crushed ice. A precipitate formed which was filtered off, washed with benzene and finally recrystallized from acetonitrile to give 3-tert. butyl-5-nitro-6-methyl salicylic acid (30.6 g) m.p. 225°-226°(dec)

reactant | 3-tert. Butyl-6-methyl salicylic acid | 0.3M, 62.4 g | C(C)(C)(C)C1=C(C(C(=O)O)=C(C=C1)C)O | C12H16O3
reactant | nitric acid | 22.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 3-tert. butyl-5-nitro-6-methyl salicylic acid | 30.6 g | C(C)(C)(C)C1=C(C(C(=O)O)=C(C(=C1)[N+](=O)[O-])C)O | C12H15NO5
